US07915267B2
To a solution of 2-amino-6-fluorobenzamide (3.80 g, 24.7 mmol) and triethylamine (2.99 g, 29.6 mmol) in THF (50 mL) was added dropwise ethyl chloroglyoxylate (3.70 g, 27.1 mmol) under ice-cooling, and the mixture was stirred at room temperature for 3 hr. The mixture was partitioned between ethyl acetate and water, and the organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue was suspended in ethanol, and the insoluble material was collected by filtration to give ethyl ((2-(aminocarbonyl)-3-fluorophenyl)amino)(oxo)acetate as a white powder (4.95 g, 79%).

reactant | 2-amino-6-fluorobenzamide | 24.7 mmol, 3.80 g | NC1=C(C(=O)N)C(=CC=C1)F | C7H7FN2O
reactant | triethylamine | 29.6 mmol, 2.99 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroglyoxylate | 27.1 mmol, 3.70 g | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl ((2-(aminocarbonyl)-3-fluorophenyl)amino)(oxo)acetate | 4.95 g, 79% | NC(=O)C1=C(C=CC=C1F)NC(C(=O)OCC)=O | C11H11FN2O4
